US07087790B2
Epicatechin (EC) (0.5 g) and gallic acid (1 g) were dissolved in a mixture of acetone-pH 5.0 phosphate citrate buffer (1: 10, v/v, 50 mL), which contained 2 mg horseradish peroxidase. While being stirred, 2.0 mL of 3.13% H2O2 was added four times during 45 minutes. The reaction mixture was extracted by ethyl acetate (50 mL×3). After concentration, the residue was subjected to Sephadex LH 20 column eluted with acetone-water solvent system (45%). 70 mg epitheaflavic acid and 25 mg purpurogallin carboxylic acid were obtained.

reactant | Epicatechin | 0.5 g | C1=CC(=C(C=C1[C@H]2[C@H](CC=3C(=CC(=CC3O2)O)O)O)O)O | C15H14O6
reactant | gallic acid | 1 g | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
reactant | H2O2 | 2.0 mL | OO | H2O2
solvent | acetone | 50 mL, pH 5.0 | CC(=O)C | C3H6O
product | purpurogallin carboxylic acid | 25 mg | C1=CC(=C(C(=O)C2=C(C(=C(C=C21)O)O)O)O)C(=O)O | C12H8O7
